US09056859B2
A mixture of 2-chloro-6-fluoro-3-iodobenzonitrile (800 mg, 2.85 mmol), allyltributylstannane (1.245 mg, 3.761 mmol), LiCl (431 mg, 10.3 mmol) and Pd(PPh3)4 (100 mg) in 50 mL toluene was heated at 100° C. overnight. Cooled to rt. and diluted with 50 mL EtOAc and filtered. The filtrate was washed with water and brine, dried over anhydrous Na2SO4 and concentrated to dryness. The residue was purified via prep-TLC (ethyl acetate/Pet ether=1:5) to give 2-chloro-6-fluoro-3-(prop-2-en-1-yl)benzonitrile. 1H-NMR (400 MHz, CDCl3) δ ppm 7.37˜7.41 (m, 1H), 7.01˜7.06 (m, 1H), 5.78˜5.87 (m, 1H), 4.99˜5.12 (m, 2H), 3.44 (d, J=6.3 Hz, 2H).

reactant | 2-chloro-6-fluoro-3-iodobenzonitrile | 2.85 mmol, 800 mg | ClC1=C(C#N)C(=CC=C1I)F | C7H2ClFIN
reactant | allyltributylstannane | 3.761 mmol, 1.245 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 10.3 mmol, 431 mg | [Li+].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-6-fluoro-3-(prop-2-en-1-yl)benzonitrile | ClC1=C(C#N)C(=CC=C1CC=C)F | C10H7ClFN
